US06841671B2
5-Oxo-1-[6-(4-pyrazol-1-ylmethyl-phenoxy)-pyridin-3-yl]-pyrrolidine-2,2-dicarboxylic acid diethyl ester:
To a solution of 1-[6-(4-bromomethyl-phenoxy)-pyridin-3-yl]-5-oxo-pyrrolidine-2,2-dicarboxylic acid diethyl ester (0.2 g, 0.4 mmol) in 0.8 mL of dimethylformamide was added pyrazole (0.056 g, 0.82 mmol) and potassium carbonate (0.11 g, 0.82 mmol). After stirring for 24 hours at 50° C., the mixture was diluted with water, extracted three times with ethyl acetate, and the combined organic phases were dried over sodium sulfate, filtered and concentrated in vacuo, affording the crude product as a colorless syrup that was used directly in the next step. MS (APCl, m/z): 479.2 [M+H]+.

reactant | 1-[6-(4-bromomethyl-phenoxy)-pyridin-3-yl]-5-oxo-pyrrolidine-2,2-dicarboxylic acid diethyl ester | 0.4 mmol, 0.2 g | C(C)OC(=O)C1(N(C(CC1)=O)C=1C=NC(=CC1)OC1=CC=C(C=C1)CBr)C(=O)OCC | C22H23BrN2O6
reactant | pyrazole | 0.82 mmol, 0.056 g | N1N=CC=C1 | C3H4N2
reactant | potassium carbonate | 0.82 mmol, 0.11 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 0.8 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 5-Oxo-1-[6-(4-pyrazol-1-ylmethyl-phenoxy)-pyridin-3-yl]-pyrrolidine-2,2-dicarboxylic acid diethyl ester | C(C)OC(=O)C1(N(C(CC1)=O)C=1C=NC(=CC1)OC1=CC=C(C=C1)CN1N=CC=C1)C(=O)OCC | C25H26N4O6
